US03976801
FIG. 7 is an illustration of the GLC curve for a mixture of ethyl-2-methyl-4-pentenoate and ethyl-2-methyl-cis-3-pentenoate produced by the hydrogenation of ethyl-2-methyl-3,4-pentadienoate with a Pd/CaCO3 catalyst according to Example XVII.

reactant | ethyl-2-methyl-4-pentenoate | C(C)OC(C(CC=C)C)=O | C8H14O2
reactant | ethyl-2-methyl-cis-3-pentenoate | C(C)OC(C(\C=C/C)C)=O | C8H14O2
catalyst | Pd CaCO3 | [Pd].C(=O)([O-])[O-].[Ca+2]
product | ethyl-2-methyl-3,4-pentadienoate | C(C)OC(C(C=C=C)C)=O | C8H12O2
